US06211234B1
A solution of ethyl 4-[2-(1-methoxycarbonyl-2-phenylethylcarbamoyl)-5-(3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)butanoate, thought to be the diastereomers (1R, 4RS), (0.48 g) in methanol (100 mL) is treated with 10% aqueous potassium carbonate solution (10 mL). The reaction mixture is stirred at room temperature for 18 hours and evaporated. The residue is dissolved in water (50 mL), the solution acidified to pH 1 by addition of 1 N hydrochloric acid and extracted with ethyl acetate (120 mL). The organic phase is washed with water (100 mL), brine (100 mL), dried over magnesium sulphate and evaporated. The semi-solid residue (0.44 g) is boiled with acetonitrile (20 mL), the mixture cooled to room temperature and filtered to remove 2-[2-hydroxy-4-(3-thienylmethoxy)benzoylamino]-3-phenylpropionic acid (0.047 g) as a white solid, m.p. 178-180° C. [Elemental analysis:- C,63.52; H,4.76; N,3.15%. Calculated :- C,63.46; H,4.82; N,3.52%]. The filtrate is evaporated to give 4-[2-(1-carboxy-2-phenylethylcarbamoyl)-5-(3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)butanoic acid, thought to be the diastereomers (1R, 4RS), (0.3 g), as an oily semi-solid. [Elemental analysis:- C,66.54; H,5.45; N,2.35%. Calculated :- C,67.00; H,5.45; N,2.44%].

reactant | ethyl 4-[2-(1-methoxycarbonyl-2-phenylethylcarbamoyl)-5-(3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)butanoate | COC(=O)C(CC1=CC=CC=C1)NC(=O)C1=C(OC(CCC(=O)OCC)C2=C(C=CC=C2)C)C=C(C=C1)OCC1=CSC=C1 | C35H37NO7S
reactant | potassium carbonate | 10 mL | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 100 mL | CO | CH4O
product | 4-[2-(1-carboxy-2-phenylethylcarbamoyl)-5-(3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)butanoic acid | C(=O)(O)C(CC1=CC=CC=C1)NC(=O)C1=C(OC(CCC(=O)O)C2=C(C=CC=C2)C)C=C(C=C1)OCC1=CSC=C1 | C32H31NO7S
